US05187175
1-[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-6-trimethylsilyl-5-hexyn-1-one
To a solution of 4,6-bis(1,1-dimethylethyl)-5-hydroxy-N-methoxy-N-methyl-2-pyrimidinecarboxamide (1,00 g, 3.38 mmols) in tetrahydrofuran (50 mL) under nitrogen atmosphere is added a freshly prepared 0.105M solution of 5-trimethylsilylpent-4-ynyl magnesium bromide (81 mL, 8.5 mmols) [from 5-bromo-1-trimethylsilyl-1pentyne (3.86 g, 17.5 mmol) and magnesium (1.50 g, 61.7 mg-atom) in tetrahydrofuran (140 mL)] dropwise. After stirring 16 hours, the resulting mixture is quenched with saturated aqueous ammonium chloride solution and extracted with ethyl ether. The combined extracts are washed with brine and the organic phase is dried over magnesium sulfate. Concentration under vacuum is followed by purification of the organic residue by flash chromatography (SiO2, 20% ethyl acetate/hexane) to give 0.97 g (77%) of the title compound which is used without further purification to make the compound of Example 7.

reactant | 4,6-bis(1,1-dimethylethyl)-5-hydroxy-N-methoxy-N-methyl-2-pyrimidinecarboxamide | 3.38 mmols, 1,00 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(=O)N(C)OC | C15H25N3O3
reactant | 5-trimethylsilylpent-4-ynyl magnesium bromide | 8.5 mmols, 81 mL, 3.86 g | C[Si](C#CCCC[Mg]Br)(C)C
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-[4,6-Bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]-6-trimethylsilyl-5-hexyn-1-one | 0.97 g, 77% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(CCCC#C[Si](C)(C)C)=O | C21H34N2O2Si
